US07875728B2
Preparation of 3-({5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}carbamoyl)acrylic acid
5-Aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine (60 mg, 0.25 mmole) was dissolved in 3 mL of anhydrous DMF. To this solution was added triethylamine (0.51 mmole, 52 mg) and then a solution of maleic anhydride (30.2 mg, 0.31 mmole) in 1 mL of DMF. The reaction mixture was stirred at ambient temperature for 30 minutes and then worked up by the addition of saline and ethyl acetate. The mixture was acidified with 1 mL of 1.5 M HCl. The aqueous phase was extracted with ethyl acetate. The combined organic layer was washed with saline three times and dried over anhydrous MgSO4. The solution was then filtered, concentrated and purified by preparative TLC (CH2Cl2:MeOH:trace acetic acid=6:1) to yield 58 mg of the title compound as a yellow powder. MS (m/z, ES−): 331 (M−1, 100%); 1H NMR (ppm, 300 MHz, DMSO-d6) □δ 11.90 (br s, 1H), 7.35-7.70 (m, 3H), 7.30 (br s, 2H), 6.12 (d, 1H), 5.70 (d, 1H), 4.52 (s, 2H).

reactant | 5-Aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 0.25 mmole, 60 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
reactant | triethylamine | 0.51 mmole, 52 mg | C(C)N(CC)CC | C6H15N
reactant | maleic anhydride | 0.31 mmole, 30.2 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | HCl | 1.5 M, 1 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-({5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}carbamoyl)acrylic acid | 58 mg | NC=1C(C(=NN1)CNC(=O)C=CC(=O)O)=NNC1=CC(=CC=C1)F | C14H13FN6O3
